US05981534
Preparation of diethyl 2,6-difluoro-4-methoxyphenylmalonate
Diethyl malonate (0.505 mol) is added to a mixture of sodium hydride (0.412 mol) and 1,4-dioxane (230 ml) at 40° C. within 3 hours. The mixture is stirred for 90 minutes at 60° C. and copper(I) bromide (0.402 mol) is added. A mixture of 2,6-difluoro-4-methoxybromobenzene (0.2 mol) and 1,4-dioxane (50 ml) is added. The reaction mixture is heated at 100° C. for 14 hours and cooled to 15° C. Hydrochloric acid (12N, 350 ml) is added slowly at 15 to 20° C. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate (250 ml) and toluene (200 ml). The combined organic phases are concentrated in vacuo. The residue is filtered over silica gel, washed with petroleum ether/ethyl acetate (15:1) and the solvent is distilled off. The residue is distilled in vacuo to yield 44.8 g of the product as an oil, 128-136° C. at 0.018 mbar.

reactant | Diethyl malonate | 0.505 mol | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.412 mol | [H-].[Na+]
reactant | 2,6-difluoro-4-methoxybromobenzene | 0.2 mol | FC1=C(C(=CC(=C1)OC)F)Br | C7H5BrF2O
reactant | Hydrochloric acid | 12N, 350 ml | Cl | ClH
catalyst | copper(I) bromide | 0.402 mol | [Cu]Br
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 230 ml | O1CCOCC1 | C4H8O2
product | diethyl 2,6-difluoro-4-methoxyphenylmalonate | 44.8 g | FC1=C(C(=CC(=C1)OC)F)C(C(=O)OCC)C(=O)OCC | C14H16F2O5
